US07547710B2
A mixture of tert-butyl [2-isobutyl-4-(4-methylphenyl)-6-trifluoromethanesulfonyloxy-quinolin-3-yl]methylcarbamate (12.16 g, 22 mmol), 1,1′-bis(diphenylphosphino)ferrocene (0.61 g, 1.1 mmol), palladium acetate (0.25 g, 1.1 mmol), triethylamine (3.4 ml, 24.2 mmol), methanol (30 ml) and tetrahydrofuran (50 ml) was stirred in a sealed tube under a 0.5 MPa carbon monoxide atmosphere at 100° C. for 3 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give methyl 3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinoline-6-carboxylate (6.84 g, yield 67%) as colorless crystals.

reactant | tert-butyl [2-isobutyl-4-(4-methylphenyl)-6-trifluoromethanesulfonyloxy-quinolin-3-yl]methylcarbamate | 22 mmol, 12.16 g | C(C(C)C)C1=NC2=CC=C(C=C2C(=C1CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C)OS(=O)(=O)C(F)(F)F | C27H31F3N2O5S
reactant | triethylamine | 24.2 mmol, 3.4 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 30 ml | CO | CH4O
reactant | carbon monoxide | [C]=O | CO
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 1.1 mmol, 0.61 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium acetate | 1.1 mmol, 0.25 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | methyl 3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinoline-6-carboxylate | 6.84 g, yield 67% | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)C(=O)OC)CC(C)C | C28H34N2O4
